US07863308B2
3-(4-Chloro-3-methyl-isoxazol-5-ylsulfamoyl)-thiophene-2-carboxylic acid:
At about 0° C., sodium hydride (60% dispersion in mineral oil, 458 mg, 19 mmol) was added to a solution of 5-amino-4-chloro-3-methylisoxazole (1.1 g, 8.3 mmol) in anhydrous tetrahydrofuran (30 mL). The resulting mixture was stirred for about 10 minutes and 2-(methoxycarbonyl)thiophene-3-sulfonyl chloride (1.95 g, 8.11 mmol) was slowly added. Under continuous stirring, the mixture was maintained at ambient temperature for about 4 hours. The mixture was then diluted with hexanes (30 mL) and the resulting precipitate was filtered and washed with hexanes. The precipitate was then dissolved in 1 N sodium hydroxide and stirred at ambient temperature for about 1 hour. After acidifying to pH ˜2 with 2 N hydrochloric acid, the resulting precipitate was filtered, washed with water, and dried in vacuo to give the desired product 3-[(4-chloro-3-methyl-5-isoxazolyl)sulfamoyl]-2-thiophenecarboxylic acid (1.2 g, 45%) as a yellow powder. 1H NMR (300 MHz, CD3OD) δ 7.82 (d, J=5.4 Hz, 1H), 7.53 (d, J=5.4 Hz, 1H), 2.24 (s, 3H); LC-MS: m/z=323 (MH)+.

reactant | sodium hydride | 19 mmol, 458 mg | [H-].[Na+]
reactant | 5-amino-4-chloro-3-methylisoxazole | 8.3 mmol, 1.1 g | NC1=C(C(=NO1)C)Cl | C4H5ClN2O
reactant | 2-(methoxycarbonyl)thiophene-3-sulfonyl chloride | 8.11 mmol, 1.95 g | COC(=O)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-[(4-chloro-3-methyl-5-isoxazolyl)sulfamoyl]-2-thiophenecarboxylic acid | 1.2 g, 45% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)O)C | C9H7ClN2O5S2
